US07368453B2
Step 2. Synthesis of (2R,3S)-2-(Hydroxymethyl)-3-pyrrolidinol Hydrochloride
The title compound was prepared from 1,1-dimethylethyl (2R,3S)-3-hydroxy-2-(hydroxymethyl)-1-pyrrolidinecarboxylate using the methods used to prepare [(2S,3S)-3-methyl-2-pyrrolidinyl]methanol hydrochloride. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.8 (m, 1 H) 2.0 (m, 1H) 2.5 (m, 2 H) 3.2 (m, 2 H) 3.3 (m, 1 H) 3.5 (m, 1 H) 3.6 (m, 1 H) 4.1 (m, 1 H) 8.7 (s, 1 H) 9.5 (m, 1 H). ES+=117.97.

reactant | 1,1-dimethylethyl (2R,3S)-3-hydroxy-2-(hydroxymethyl)-1-pyrrolidinecarboxylate | O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)CO | C10H19NO4
reactant | [(2S,3S)-3-methyl-2-pyrrolidinyl]methanol hydrochloride | Cl.C[C@@H]1[C@H](NCC1)CO
product | (2R,3S)-2-(Hydroxymethyl)-3-pyrrolidinol Hydrochloride | Cl.OC[C@H]1NCC[C@@H]1O | InChI=1S/C5H11NO2.ClH/c7-3-4-5(8)1-2-6-4;/h4-8H,1-3H2;1H/t4-,5+;/m1./s1
